US08431569B2
Step 3. 1-Cyclopropyl-3-hydroxy-3-methylbutan-1-aminium chloride
To a stirred solution of N-(1-cyclopropyl-3-hydroxy-3-methylbutyl)-2-methylpropane-2-sulfinamide (0.56 g, 2.26 mmol) in MeOH (1.2 mL) was added 4 N HCl in dioxane (1.1 mL, 4.4 mmol). The reaction mixture was left to stir for 30 min, concentrated, and dried under high-vacuum to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 7.75 (br s, 3H); 2.54 (m, 1H); 1.77 (dd, 1H); 1.65 (dd, 1H); 1.19 (s, 3H); 1.14 (s, 3H); 0.96 (m, 1H); 0.53 (m, 3H); 0.26 (m, 1H).

reactant | N-(1-cyclopropyl-3-hydroxy-3-methylbutyl)-2-methylpropane-2-sulfinamide | 2.26 mmol, 0.56 g | C1(CC1)C(CC(C)(C)O)NS(=O)C(C)(C)C | C12H25NO2S
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 4.4 mmol, 1.1 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 1.2 mL | CO | CH4O
product | 1-Cyclopropyl-3-hydroxy-3-methylbutan-1-aminium chloride | [Cl-].C1(CC1)C(CC(C)(C)O)[NH3+] | InChI=1S/C8H17NO.ClH/c1-8(2,10)5-7(9)6-3-4-6;/h6-7,10H,3-5,9H2,1-2H3;1H
